US07576074B2
1,1-Dimethylethyl 4-cyanopiperazine-1-carboxylate (10 g, 47.1 mmol) was taken into ethanol (100 mL) and the resulting solution was cooled to 0° C. Hydroxylamine (50% aqueous solution, 3.5 mL, 56.5 mmol) was added and the mixture was allowed to warm to room temperature then stirred an additional hour. The mixture was then concentrated in vacuo to a paste and suspended in 1:1 ethyl ether/hexane (100 mL) and the solid product collected by filtration. The solid was washed with an additional portion of ethyl ether/hexane then dried to give 1,1-dimethylethyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate (9.64 g, 83% yield) as a white solid. 1H-NMR (400 MHz, DMSO-d6): 8.34 (s, 1H), 5.19 (s, 2H), 3.30 (tr, 4H), 2.91 (tr, 4H), 1.39 (s, 9H).

reactant | 1,1-Dimethylethyl 4-cyanopiperazine-1-carboxylate | 47.1 mmol, 10 g | C(#N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H17N3O2
reactant | Hydroxylamine | 56.5 mmol, 3.5 mL | NO | H3NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1,1-dimethylethyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate | 9.64 g, 83% yield | ONC(N1CCN(CC1)C(=O)OC(C)(C)C)=N | C10H20N4O3
